US09399636B2
Step 3: 2-((6-(3,3-difluoropyrrolidin-1-yl)-4-(1-(oxetan-3-yl)piperidin-4-yl)pyridin-2-yl)amino)isonicotinonitrile
To a 50-mL recovery flask charged with 2-chloro-6-(3,3-difluoropyrrolidin-1-yl)-4-(1-(oxetan-3-yl)piperidin-4-yl)pyridine (216 mg, 0.603 mmol, 1 equiv), 2-amino-4-cyanopyridine (122 mg, 1.03 mmol, 1.70 equiv), cesium carbonate (399 mg, 1.22 mmol, 2.03 equiv) in 1,4-dioxane was added tris(dibenzylideneacetone)dipalladium(0) (28 mg, 0.031 mmol, 0.051 equiv). The reaction flask was fitted with a microreflux condenser, and the reaction mixture was heated at reflux under nitrogen for 13 h. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate (20 mL) and washed with water (10 mL). The organic was separated and the aqueous wash was further extracted with ethyl acetate (2×10 mL). The combined organic was dried over anhydrous sodium sulfate, filtered, and concentrated. Purification by flash column chromatography (3% methanol in dichloromethane+0.1% ammonium hydroxide) provided product as a yellow solid (205 mg (77% yield). 1H NMR (400 MHz, DMSO-d6), δ: 9.72 (s, 1H), 8.46 (s, 1H), 8.41 (d, J=5.0 Hz, 1H), 7.20 (dd, J=5.1, 1.2 Hz, 1H), 6.60 (s, 1H), 6.00 (s, 1H), 4.54 (t, J=6.4 Hz, 2H), 4.44 (t, J=6.0 Hz, 2H), 3.85 (t, J=13.2 Hz, 2H), 3.65 (t, J=7.2 Hz, 2H), 3.40 (m, 1H), 2.80 (m, 2H), 2.56 (m, 2H), 2.39 (m, 1H), 1.84 (m, 2H), 1.61-1.76 (m, 4H). m/z (ESI-pos) M+1=441

reactant | 2-chloro-6-(3,3-difluoropyrrolidin-1-yl)-4-(1-(oxetan-3-yl)piperidin-4-yl)pyridine | 0.603 mmol, 216 mg, 1 equiv | ClC1=NC(=CC(=C1)C1CCN(CC1)C1COC1)N1CC(CC1)(F)F | C17H22ClF2N3O
reactant | 2-amino-4-cyanopyridine | 1.03 mmol, 122 mg, 1.70 equiv | NC1=NC=CC(=C1)C#N | C6H5N3
reactant | cesium carbonate | 1.22 mmol, 399 mg, 2.03 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.031 mmol, 28 mg, 0.051 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-((6-(3,3-difluoropyrrolidin-1-yl)-4-(1-(oxetan-3-yl)piperidin-4-yl)pyridin-2-yl)amino)isonicotinonitrile | 77% yield | FC1(CN(CC1)C1=CC(=CC(=N1)NC=1C=C(C#N)C=CN1)C1CCN(CC1)C1COC1)F | C23H26F2N6O
